US07214824B2
38(b): 3-(Benzyloxy)-4-tert-butylphenol
To a diethylether (100 ml) solution of 3-(benzyloxy)-4-tert-butylphenyl tert-butyl carbonate (7.1 g, 20 mmol) was added lithium aluminum hydride (0.75 g, 20 mmol) at 0° C. The reaction mixture was 10 stirred at ambient temperature for 3 hours. To the mixture was added H2O (10 ml) carefully to form a white prepicitate. The organic layer was dried over magnesium sulfate. After filtration to separate solvent and magnesium sulfate and precipitate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with ethyl acetate/hexane =1/6 to furnish 4.9 g (96% yield) of the title compound as colorless oil.

reactant | diethylether | 100 ml | C(C)OCC | C4H10O
reactant | 3-(benzyloxy)-4-tert-butylphenyl tert-butyl carbonate | 20 mmol, 7.1 g | C(OC1=CC(=C(C=C1)C(C)(C)C)OCC1=CC=CC=C1)(OC(C)(C)C)=O | C22H28O4
reactant | lithium aluminum hydride | 20 mmol, 0.75 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | H2O | 10 ml | O | H2O
product | 3-(Benzyloxy)-4-tert-butylphenol | 4.9 g, 96% yield | C(C1=CC=CC=C1)OC=1C=C(C=CC1C(C)(C)C)O | C17H20O2
